US09238639B2
(4-Cyano-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(4-cyano-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (96 mg), THF (3 mL) and MeOH (3 mL) was added 1N NaOH (1.179 mL) at room temperature. The mixture was stirred at room temperature for 12 h. The mixture was neutralized with 1N HCl at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The crystals were crystallized from EtOAc to give the title compound (80 mg).

reactant | methyl(4-cyano-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 96 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C)C)C#N)=O | C20H18N2O3S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 1.179 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | (4-Cyano-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 80 mg | C(#N)C1=CC(=CC2=C1C(=CS2)CC(=O)O)OCC=2C(=NC(=CC2)C)C | C19H16N2O3S
